US07846903B2
Under a nitrogen atmosphere, a solution of 30 g (0.09 mol) of 5,9,13,17-tetramethyl-1-octadecanol and 8.72 g (0.11 mol) of pyridine in 200 ml of dry methylene chloride was added dropwise to a solution of 19.3 g (0.10 mol) of p-toluenesulfonyl chloride in 100 ml of dry methylene chloride under ice cooling. After the dropwise addition, the mixture was agitated at room temperature overnight, the resulting reaction solution was successively washed with 200 ml of water, 200 ml of 2N hydrochloric acid, and 200 ml of a saturated sodium bicarbonate water, and it was dried over anhydrous magnesium sulfate. After the filtration, the resultant was concentrated under reduced pressure to obtain 42 g of (5,9,13,17-tetramethyloctadecyl)tosylate.

reactant | 5,9,13,17-tetramethyl-1-octadecanol | 0.09 mol, 30 g | CC(CCCCO)CCCC(CCCC(CCCC(C)C)C)C | C22H46O
reactant | pyridine | 0.11 mol, 8.72 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.10 mol, 19.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (5,9,13,17-tetramethyloctadecyl)tosylate | 42 g | CC(CCCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(CCCC(C)C)C)C | C29H52O3S
